datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6])([H:16])[H:17])([H:7])([H:8])[H:9].[O:18]([O:19][H:21])[H:20]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6][H:20])([H:16])[H:17])([H:7])([H:8])[H:9].[O:18][O:19][H:21],41.84
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31])[H:11],1.42256
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15]>>[C:0]([c:1]1[c:2]([H:10])[c:3][c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:11][O:15],92.9191088
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([O:7][O:8][H:19])[H:13])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([O:7][O:8][H:19])[H:13])[H:11])([H:9])[H:10].[O:2][O:3][H:12],65.2704
[C:0]1([H:6])[C:1]([H:7])=[C:2]([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[H:14].[O:15][O:16]>>[C:0]1([H:6])=[C:5]([H:14])[C:4]([H:11])([H:12])[C:3]([H:9])([H:10])[C:2]([H:8])=[C:1]1[H:7].[H:13][O:15][O:16],0.0
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6][S:7][H:8]>>[C:0]([S:1][S:6][S:7][H:8])([H:2])([H:3])[H:4].[H:5],153.009
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[O:30][O:31]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[H:27][O:30][O:31],213.09112
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([S:6])([H:7])([H:8])[H:9]>>[C:0](#[C:1][S:2])[H:3].[H:4][S:6][C:5]([H:7])([H:8])[H:9],-3.7656
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22]([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])([H:29])([H:30])[H:31]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:22]([C:21]([H:29])([H:30])[H:31])([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])[H:11],35.3966
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[S:16][H:23])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[S:16][H:23],-1.6736
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6][H:18],192.7656664
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:20])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])([H:5])[C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24],65.1867
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([C:7](=[S:8])[H:12])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[S:3])[H:12])[H:4].[C:5](=[C:6]([C:7]=[S:8])[H:11])([H:9])[H:10],69.036
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19],60.668
[C:0]([S:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[H:15]>>[C:0]([S:1][H:15])([H:5])([H:6])[H:7].[C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8],13.8072
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[N:15]([H:16])[H:17]>>[C:0]([C:1](=[C:2]([C:3]([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[H:9][N:15]([H:16])[H:17],32.30048
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[Cl:6]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][Cl:6],28.2692
[H:3].[O:0]=[C:1]=[S:2]>>[O:0][C:1](=[S:2])[H:3],32.175
